Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old M with castration resistant prostate cancer w/ 
pelvic
metastatic disease who presents with dyspnea. 

Pt has been on a trial of pembrolizumab and radium with good
response in PSA. He is due for his fifth radium treatment on
___. He has metastatic disease in the pelvis. He had radiation
to the left hip with significant improvement in his pain. He was
feeling well and walking up to a mile per day. However, over
time, he has been limited by pain in the right hip where he has 
a
combination of severe DJD as well. He was seen by radiation
oncology and given rapid worsening of his pain, he had radiation
treatment to the right hip on ___. 

He reports that over the period of the past few days since his
radiation treatment, he has had progressive fatigue and dyspnea
with exertion. He has not been able to leave the home. He called
his oncologist's office and was recommended to come to the ED 
for
evaluation.

In the ED, he had normal oxygen saturation. However, he was
tachycardic to 120's. Labs showed acute on chronic anemia with
Hgb of 6.2. CTA chest was negative for pulmonary embolus. He was
transfused 1 unit of blood and admitted for further care. 

On arrival to the floor, pt feels improved s/p transfusion.
Denies chest pain, cough, or fevers.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___: developed decreased appetite, lower back pain, fatigue;
___: PSA 1300, hgb 12.8, Cr 1.0 BMP normal.
___: prostate biopsy by Dr. ___ started on
bicaluamide
___: Started lupron q3mos, stopped bical
___ - ___: Docetaxel and lupron q3months. Complicated by
bilateral lower extremity edema, L>R, nail changes
___: increasing PSA on Lupron
___ - ___: extandi with initial PSA response
___: Screen fail for ___ secondary to negative bone bx
___ - ___: abiraterone, stopped for increasing PSA
___: re screen for ___ Cycle 1 Day 1 Radium + Pembrolizumab (Last radium # 4 on 

___, last Pembro # 5 ___
  
PAST MEDICAL HISTORY: 
Hypertension
Arthritis to b/l hips

 
Social History:
___
Family History:
No known family history of cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:97.6 145/92 94 18 91% RA 
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses, 2+ DP pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses

DISCHARGE PHYSICAL EXAM:
VS:24 HR Data (last updated ___ @ 438)
    Temp: 98.4 (Tm 98.4), BP: 150/67 (119-150/52-73), HR: 114
(102-120), RR: 22 (___), O2 sat: 93% (93-97), O2 delivery: RA,
Wt: 196.3 lb/89.04 kg   
GENERAL: Pleasant, sitting up in a chair by the bed, breathing
comfortably on room air
HEENT: MMM
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses, 2+ DP pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding
MUSKULOSKELATAL: Warm, well perfused extremities, 1+ bilateral
lower extremity edema (symmetric, without erythema, warmth)
 
Pertinent Results:
ADMISSION LABS: 
___ 09:50PM BLOOD WBC-4.2 RBC-1.92* Hgb-6.2* Hct-20.0* 
MCV-104* MCH-32.3* MCHC-31.0* RDW-19.5* RDWSD-72.7* Plt ___
___ 09:50PM BLOOD Neuts-77* Bands-2 Lymphs-8* Monos-9 
Eos-0* Baso-1 Atyps-2* Myelos-1* NRBC-3.8* AbsNeut-3.32 
AbsLymp-0.42* AbsMono-0.38 AbsEos-0.00* AbsBaso-0.04
___ 09:50PM BLOOD ___ PTT-27.2 ___
___ 09:50PM BLOOD Glucose-137* UreaN-45* Creat-1.6* Na-132* 
K-5.3 Cl-99 HCO3-20* AnGap-13

IMAGING: 
CTA CHEST - ___: 
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. New bilateral pleural effusions, greater on the left, and 
fissural 
thickening, in addition to cardiomegaly, is likely related to 
congestive heart 
failure or fluid overload, however without frank pulmonary 
edema. 
3. Stable appearance of the osseous metastases. 

TTE - ___:
IMPRESSION: Suboptimal image quality. Hyperdynamic biventricular 
systolic function with minimal gradients across the LVOT and 
RVOT from high cardiac output. No clinically significant 
valvular pathology seen. No prior TTE available for comparison.

ADDITIONAL RELEVANT LABS:
___ 06:40AM BLOOD ALT-11 AST-15 AlkPhos-280* TotBili-0.9

DISCHARGE LABS: 
___ 06:14AM BLOOD WBC-4.2 RBC-2.43* Hgb-7.6* Hct-23.5* 
MCV-97 MCH-31.3 MCHC-32.3 RDW-22.1* RDWSD-74.2* Plt Ct-82*
___ 06:14AM BLOOD Glucose-122* UreaN-42* Creat-1.2 Na-136 
K-5.2 Cl-103 HCO3-22 AnGap-11
___ 06:14AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.2
 
Brief Hospital Course:
Providers: ___ year old M with castration resistant prostate 
cancer w/ pelvic metastatic disease on radium+pembrolizumab who 
presents with dyspnea after recent radiation to R hip.

# Dyspnea/fatigue
Unclear etiology. Pt anemic on presentation, requiring 2 unit 
PRBC with appropriate bump and improvement in symptoms. 
Considered PE given tachycardia/tachypnea/history of malignancy, 
but CTA without evidence of PE. However, CTA with findings c/w 
possible CHF. Echo without evidence of CHF, but with high 
cardiac index. Of note, dyspnea/fatigue onset at time of 
corticosteroid discontinuation (unclear why discontinued). 
Therefore, it is possible that adrenal insufficiency or 
unmasking of pembrolizumab reaction contributed to presentation. 
Random cortisol obtained, but difficult to interpret as not a 
morning cortisol; patient was stable for discharge and decided 
to defer further workup to outpatient setting. Patient was 
discharged after reinitiation of corticosteroids in line with 
recommendations from outpatient oncologist, Dr. ___. Hgb 
stable at 7.6 on day of discharge. Ambulatory O2 performed with 
patient O2 saturations in mid-___.

# Prostate CA 
Patient with history of prostate cancer with recent radiation to 
R hip. He was continued on Tylenol and tramadol for pain. His 
___ radium dose was deferred to a later date with his 
outpatient oncologist Dr. ___ input and assistance 
with scheduling. Per conversations with Dr. ___ was 
reinitiated on dexamethasone prior to discharge. 

# BPH 
Patient was continued on home Tamsulosin. 

Transitional Issues: 
====================
[] Pt reinitiated on dexamethasone while inpatient. Will need to 
be managed by outpatient oncologist, Dr. ___. 
[] Unclear etiology of patient's initial dyspnea/fatigue, 
although notably improved with dexamethasone. Possibly 
multifactorial with contribution of adrenal insufficiency given 
chronicity/recent self-discontinuation of dexamethasone as 
outpatient. Patient should undergo work up for possible adrenal 
insufficiency as outpatient.

CODE: Full (presumed) 
COMMUNICATION: Patient 
EMERGENCY CONTACT HCP:
Health care proxy chosen: Yes
Name of health care proxy: ___: Spouse
Phone number: ___
Date on form: ___
Proxy form in chart: ___
Comments: Alternate First Alternate ___ ___
Second Alternate ___ ___. 
Verified on date: ___
 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Dexamethasone 2 mg PO DAILY 
2. TraMADol 50 mg PO TID:PRN Pain - Moderate 
3. Tamsulosin 0.4 mg PO QHS 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Leuprolide Acetate 22.5 mg IM Q3 MONTHS 
6. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 
7. Senna 17.2 mg PO QHS 
8. Calcium Carbonate 1000 mg PO DAILY 
9. Cyanocobalamin Dose is Unknown  PO DAILY 
10. glucosamine sulfate 1,000 mg oral DAILY 
11. OxyCODONE (Immediate Release) ___ mg PO Q4-6 HOURS PRN Pain 
- Moderate 

 
Discharge Medications:
1.  Calcium Carbonate 1000 mg PO DAILY  
2.  Cyanocobalamin 250 mcg PO DAILY  
3.  Dexamethasone 2 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  glucosamine sulfate 1,000 mg oral DAILY  
6.  Leuprolide Acetate 22.5 mg IM Q3 MONTHS  
7.  Levothyroxine Sodium 125 mcg PO DAILY  
8.  OxyCODONE (Immediate Release) ___ mg PO Q4-6 HOURS PRN Pain 
- Moderate  
9.  Senna 17.2 mg PO QHS  
10.  Tamsulosin 0.4 mg PO QHS  
11.  TraMADol 50 mg PO TID:PRN Pain - Moderate  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Anemia
Fatigue

SECONDARY DIAGNOSES:
====================
prostate cancer w/ pelvic metastatic disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for exhaustion and mild discomfort with 
breathing.
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - We performed imaging studies to look for a blood clot in your 
lung, which we did not find.

 - We found that your red blood cell count was low, so we 
provided you with blood products to support you.

 - We re-started your dexamethasone after speaking with your 
outpatient oncologist, Dr. ___ how best to treat you.
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  

 
Followup Instructions:
___